*RIPPLE CARRY ADDER
.option filetype=ascii
.INCLUDE ../lib/ST65LIKE_cell_library_v2020_1.net 
.INCLUDE ../lib/16nm_HP.pm
.PARAM ALIM=1.000000
.PARAM Lmin=16n
.PARAM Wmin=16n
.PARAM XXX=1
.TRAN 0.1p 820p

.subckt RCA_SUB 0 Vdd sum0 sum1 sum2 sum3  cout3 cin0  ain0  ain1  ain2  ain3  bin0  bin1  bin2  bin3 XX=1
xfa0 0 Vdd sum0 cout0 0 ain0 bin0 FA_SUB XX=XXX 
xfa1 0 Vdd sum1 cout1 cout0  ain1  bin1 FA_SUB XX=XXX 
xfa2 0 Vdd sum2 cout2 cout1  ain2  bin2 FA_SUB XX=XXX 
xfa3 0 Vdd sum3 cout3 cout2  ain3  bin3 FA_SUB XX=XXX 
.ends 
xrca 0 Vcc S0 S1 S2 S3  Cout3 Cin  A0  A1  A2  A3  B0  B1  B2  B3 RCA_SUB XX=XXX
